US04159984
To a solution of 23.0 g of diphenylmethyl α-(3-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-6-yl)-α-isopropylideneacetate in 480 ml of tetrahydrofuran containing 5% water is added aluminium amalgam prepared from 10 g of aluminium and 250 ml of 0.5% mercuric chloride and the mixture stirred at room temperature for 2 hours, dried on magnesium sulfate and concentrated under reduced pressure. The residue is recrystallized from a mixture of methylene chloride and ether (1:5) to yield 17.5 g of diphenylmethyl α-(3ξ-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 76% yield.

reactant | diphenylmethyl α-(3-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-6-yl)-α-isopropylideneacetate | 23.0 g | C(=O)(OC)C1=NC2C(N(C2O1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)C)=O | C24H22N2O6
reactant | aluminium | 10 g | [Al] | Al
solvent | tetrahydrofuran | 480 ml | O1CCCC1 | C4H8O
product | diphenylmethyl α-(3ξ-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 17.5 g, 76% yield | C(=O)(OC)C1NC2C(N(C2O1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)C)=O | C24H24N2O6
